US08202863B2
To a solution of 2-(2-pyrrolidin-1-yl-vinyl)-benzooxazol-6-ylamine (3.2 mmol) in MeOH (40 mL) is added sodium cyanoborohydride (6.4 mmol) at room temperature. The reaction mixture is heated to reflux for 18 hours. The mixture is concentrated and the residue is dissolved in DCM. The solution is washed with water and brine, and dried (MgSO4). A small amount of activated carbon is added to the solution, and the mixture is filtered. The filtrate is concentrated to afford 2-(2-pyrrolidin-1-yl-ethyl)-benzooxazol-6-ylamine as a solid. 1H NMR (300 MHz, CDCl3): δ 1.79 (m, 4H), 2.61 (m, 4H), 3.00-3.18 (m, 4H), 4.78 (broad, 2N—H), 6.68 (q, H), 6.80 (d, H), 7.43 (d, H).

reactant | 2-(2-pyrrolidin-1-yl-vinyl)-benzooxazol-6-ylamine | 3.2 mmol | N1(CCCC1)C=CC=1OC2=C(N1)C=CC(=C2)N | C13H15N3O
reactant | sodium cyanoborohydride | 6.4 mmol | C(#N)[BH3-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | 2-(2-pyrrolidin-1-yl-ethyl)-benzooxazol-6-ylamine | N1(CCCC1)CCC=1OC2=C(N1)C=CC(=C2)N | C13H17N3O
